US08426404B2
Synthesis of 2-Chloro-1-(6-chloro-pyrimidin-4-yl)-1H-benzoimidazole
To the solution of 2-Chloro-1H-benzoimidazole (3.0 g, 19.67 mmol) in 10 mL DMF at 0° C. under argon atmosphere is added with sodium hydride (60% dispersion in mineral oil, 1.18 g, 29.5 mmol) portion wise. After 20 minutes, 4,6-dichloro-pyrimidine (3.3 g, 22.1 mmol) is added. The resulting reaction mixture is allowed to warm to room temperature and stirred overnight. The reaction mixture is treated with 120 mL water and extracted three times with 100 mL dichloromethane. The organic extracts are washed with brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (0% EtOAc/hexanes to 20% EtOAc/hexanes gradient), affords the title compound as a white powder: Rf=0.35 (20% EtOAc/hexanes); 1H NMR 400 MHz (DMSO-d6) δ 9.26 (s, 1H), 8.25 (s, 1H), 7.80-7.72 (m, 2H), 7.43-7.37 (m, 2H); MS m/z 265.1 (M+1).

reactant | 2-Chloro-1H-benzoimidazole | 19.67 mmol, 3.0 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | sodium hydride | 29.5 mmol, 1.18 g | [H-].[Na+]
reactant | 4,6-dichloro-pyrimidine | 22.1 mmol, 3.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | 120 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-1-(6-chloro-pyrimidin-4-yl)-1H-benzoimidazole | ClC1=NC2=C(N1C1=NC=NC(=C1)Cl)C=CC=C2 | C11H6Cl2N4
